US08012966B2
A stirred solution of 3-methyl-5-(2-morpholin-4-yl-ethyl)-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde (52 mg, 0.15 mmol), 5-fluoro-1,3-dihydro-indol-2-one (25 mg, 0.4 mmol) in 0.4 ml of ethanol was added dropwise with anhydrous piperidine (0.04 ml). The mixture was stirred at room temperature overnight. The precipitate was filtered under reduced pressure. The resulting solid was washed with anhydrous ethanol (0.2 ml×5), purified by silica gel column chromatography with dichloromethane:methanol (10:1) as eluents to give 2-(5-fluoro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-3-methyl-5-(2-morpholin-4-yl-ethyl)-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one (30 mg, 38%) as a yellow solid.

reactant | 3-methyl-5-(2-morpholin-4-yl-ethyl)-4-oxo-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde | 0.15 mmol, 52 mg | CC1=C(NC2=C1C(N(CC2)CCN2CCOCC2)=O)C=O | C15H21N3O3
reactant | 5-fluoro-1,3-dihydro-indol-2-one | 0.4 mmol, 25 mg | FC=1C=C2CC(NC2=CC1)=O | C8H6FNO
reactant | piperidine | 0.04 ml | N1CCCCC1 | C5H11N
solvent | ethanol | 0.4 ml | C(C)O | C2H6O
product | 2-(5-fluoro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-3-methyl-5-(2-morpholin-4-yl-ethyl)-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one | 30 mg, 38% | FC=1C=C2C(C(NC2=CC1)=O)=CC1=C(C=2C(N(CCC2N1)CCN1CCOCC1)=O)C | C23H25FN4O3
